*koray önkal 20293981

.MODEL NMOS NMOS LEVEL = 3 
+ TOX = 200E-10 NSUB = 1E17 GAMMA = 0.5 
+ PHI = 0.7 VTO = 0.8 DELTA = 3.0 
+ UO = 650 ETA = 3.0E-6 THETA = 0.1 
+ KP = 120E-6 VMAX = 1E5 KAPPA = 0.3 
+ RSH = 0 NFS = 1E12 TPG = 1 
+ XJ = 500E-9 LD = 100E-9 
+ CGDO = 200E-12 CGSO = 200E-12 CGBO = 1E-10 
+ CJ = 400E-6 PB = 1 MJ = 0.5 
+ CJSW = 300E-12 MJSW = 0.5

.MODEL PMOS PMOS LEVEL = 3 
+ TOX = 200E-10 NSUB = 1E17 GAMMA = 0.6
+ PHI = 0.7 VTO = -0.9 DELTA = 0.1 
+ UO = 250 ETA = 0 THETA = 0.1 
+ KP = 40E-6 VMAX = 5E4 KAPPA = 1 
+ RSH = 0 NFS = 1E12 TPG = -1 
+ XJ = 500E-9 LD = 100E-9 
+ CGDO = 200E-12 CGSO = 200E-12 CGBO = 1E-10 
+ CJ = 400E-6 PB = 1 MJ = 0.5 
+ CJSW = 300E-12 MJSW = 0.5

M1 2 1 4 3 NMOS W=1.8u L=1.2u NRS=0.333 NRD=0.333 
+ AD=6.5p PD=9.0u AS=6.5p PS=9.0u 

*M2 D G S B MOSP W=1.8u L=1.2u NRS=0.333 NRD=0.333 
*+ AD=6.5p PD=9.0u AS=6.5p PS=9.0u 

VIN 1 0 
Vdd 2 0 5
Vbs 0 3 5
Vsamp 4 0 0

*Alter M1 L=1u 

.control

dc VIN 0 5 0.1 Vbs 0 5 0.5
plot vsamp#branch vs V(1)
.endc